US04371541
2,3-Dihydro-4-[(4-methylphenyl)sulfonyloximino]-2-phenyl-4H-1-benzopyran
A solution of p-toluenesulfonyl chloride (83 g) in 125 ml pyridine was added dropwise at 5°-10° to 2,3-dihydro-4-(hydroxyimino)-2-phenyl-4H-1-benzopyran (52 g) in 230 ml pyridine. The reaction mixture was then stirred for 20 hours at room temperature, poured into ice-water to separate out the title compound, which was filtered, washed several times with water, then once with ether, and finally dried in air. Yield: 85.5 g; m.p. 141°-143°.

reactant | p-toluenesulfonyl chloride | 83 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,3-dihydro-4-(hydroxyimino)-2-phenyl-4H-1-benzopyran | 52 g | ON=C1CC(OC2=C1C=CC=C2)C2=CC=CC=C2 | C15H13NO2
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 230 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-Dihydro-4-[(4-methylphenyl)sulfonyloximino]-2-phenyl-4H-1-benzopyran | CC1=CC=C(C=C1)S(=O)(=O)ON=C1CC(OC2=C1C=CC=C2)C2=CC=CC=C2 | C22H19NO4S
